US04421758
3 g of 2-tosyloxymethyl-3,4-dihydro-2H-pyran and 1.91 g of p-chlorobenzyl alcohol were dissolved in 40 ml of diethyl ether, and 2-3 drops of phosphorus oxytrichloride were added to the resulting solution. The mixture was then allowed to react at room temperature for 1.5 days, after which 2 drops of triethylamine were added and the mixture was concentrated by evaporation under reduced pressure. The residue was subjected to column chromatography through silica gel, eluted with a 8:1 by volume mixture of hexane and ethyl acetate, to give 3.44 g of trans-6-(4-chlorobenzyloxy)-2-tosyloxymethyltetrahydropyran (having the lesser polarity), 0.59 g of cis-6-(4-chlorobenzyloxy)-2-tosyloxymethyltetrahydropyran (having the greater polarity) and 0.86 g of an approximately 1:1 cis/trans mixture.

reactant | 2-tosyloxymethyl-3,4-dihydro-2H-pyran | 3 g | S(=O)(=O)(C1=CC=C(C)C=C1)OCC1OC=CCC1 | C13H16O4S
reactant | p-chlorobenzyl alcohol | 1.91 g | ClC1=CC=C(CO)C=C1 | C7H7ClO
solvent | diethyl ether | 40 ml | C(C)OCC | C4H10O
catalyst | phosphorus oxytrichloride | 2-3 drops | O=P(Cl)(Cl)Cl | Cl3OP
catalyst | triethylamine | 2 drops | C(C)N(CC)CC | C6H15N
product | trans-6-(4-chlorobenzyloxy)-2-tosyloxymethyltetrahydropyran | 3.44 g | ClC1=CC=C(CO[C@H]2CCC[C@@H](O2)COS(=O)(=O)C2=CC=C(C)C=C2)C=C1 | C20H23ClO5S
